US09340527B2
Ethyl 1-((6-(cyclohexyloxy)quinolin-2-yl)methyl)piperidine-4-carboxylate (117 mg, 0.30 mmol) was dissolved in EtOH (5 mL). NaOH (24 mg, 0.60 mmol, 2 eq) was added in one portion at room temperature. The mixture was stirred at reflux for 2 h. The solvent was removed and the residue was dissolved in H2O (3 mL) and adjusted to pH=7 with HCl (1 M). The precipitate was collected and dried under vacuum to give 1-((6-(cyclohexyloxy)quinolin-2-yl)methyl)piperidine-4-carboxylic acid (40 mg, yield: 58%) as white solid. ESI-MS (M+H)+: 369.2, HPLC: 97.89%. 1H NMR (400 MHz, CD3OD) δ: 8.18 (d, J=8.8 Hz, 1H), 7.89 (d, J=9.2 Hz, 1H), 7.37 (d, J=8.4 Hz, 1H), 7.33 (dd, J=8.8, 2.4 Hz, 1H), 7.21 (d, J=2.4 Hz, 1H), 4.51 (s, 2H), 4.45-4.40 (m, 1H), 3.56-3.52 (m, 2H), 3.23-3.20 (m, 2H), 2.65-2.62 (m, 1H), 2.16-2.11 (m, 2H), 2.00-1.93 (m, 4H), 1.75-1.71 (m, 2H), 1.53-1.23 (m, 6H).

reactant | Ethyl 1-((6-(cyclohexyloxy)quinolin-2-yl)methyl)piperidine-4-carboxylate | 0.30 mmol, 117 mg | C1(CCCCC1)OC=1C=C2C=CC(=NC2=CC1)CN1CCC(CC1)C(=O)OCC | C24H32N2O3
reactant | NaOH | 0.60 mmol, 24 mg, 2 eq | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1-((6-(cyclohexyloxy)quinolin-2-yl)methyl)piperidine-4-carboxylic acid | 40 mg, yield: 58% | C1(CCCCC1)OC=1C=C2C=CC(=NC2=CC1)CN1CCC(CC1)C(=O)O | C22H28N2O3
